US07667052B2
(8E,12E,14E)-7-Carbamoyloxy-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide
28% Aqueous ammonia solution (20 μL, 300 μmol) was added dropwise to a solution of the crude (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(4-nitrophenoxy)carboxy-18,19-epoxytricosa-8,12,14-trien-11-olide (10 mg, about 5.3 μmol) in tetrahydrofuran (1.5 mL), followed by stirring at room temperature for 3 hours. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The resulting organic layer was dried over anhydrous magnesium sulfate, filtered and then evaporated. The resulting residue was purified by thin layer chromatography (MERCK Silica gel 60 F254, 0.2 mm, developing solution; ethyl acetate-hexane, 1:1) to give the title compound (3.6 mg, 90%, 2 steps) as a colorless oil.

reactant | ammonia | 300 μmol, 20 μL | N | H3N
reactant | (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(4-nitrophenoxy)carboxy-18,19-epoxytricosa-8,12,14-trien-11-olide | about 5.3 μmol, 10 mg | C(C)OC(C)OC1C(C(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)OC1=CC=C(C=C1)[N+](=O)[O-])C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C)C(=O)O | C47H73NO14
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | (8E,12E,14E)-7-Carbamoyloxy-3,6,21-tri(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 3.6 mg, 90% | C(N)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C)OC(C)OCC)(C)OC(C)OCC | C41H71NO11
